Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:5]#[O+:6].[O:1]([C:2]([C:3](=[O:4])[H:8])([H:7])[H:9])[H:10]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],37.4210599565688
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])[H:10])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:16])[H:14])([H:12])([H:13])[H:15],108.441886898489
[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8]>>[N:1]1([H:8])[C:2]2=[O+:7][N-:6][C:5]([H:11])=[C:4]([H:10])[C@:3]12[H:9],69.1443833339181
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[C:2](=[C:3]([O:4][H:11])[H:10])([H:8])[H:9].[O:1]([C:5]([O:6][H:14])([H:12])[H:13])[H:7],76.48918113398321
[C:1]([O:2][H:10])([H:7])([H:8])[H:9].[C@@:3]12([H:11])[C:4]([H:12])([H:13])[C:5]1=[C:6]2[H:14]>>[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],36.779500877806996
[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6]>>[N:4]#[N:5].[O-:1][C:2](=[C+:3][H:7])[H:6],48.0102476601365
[O:1]=[C:2]([N:3]([C:4](/[C:5](=[C:6](\[C:7][H:14])[H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],15.912921968460388
[C-:5]#[O+:6].[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],52.91634444061641
[C:1]([C:2]1=[C:5]([C:6](=[O:3])[H:12])[C:4]1([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],67.36613278543099
[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][C:7]([C:5](=[O:6])[H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],96.2163220527099
[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[C+:2](=[C:3]=[C-:4][C:5]#[C:6][H:10])[H:8].[O:1]([H:7])[H:9],58.689870661065704
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5](=[C:4]([H:12])[H:13])[H:14])([H:7])([H:8])[H:9].[C:2](=[O:3])([H:10])[H:11],84.8973982670796
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([C:2]([C:3](=[C:5]=[C+:6][H:16])[H:12])([H:10])[H:11])([H:7])[H:9].[C:4]([H:8])([H:13])([H:14])[H:15],83.87247055515171
[C-:1]([O+:2]=[C:3]([H:10])[H:11])([H:7])[H:8].[C:4](=[O:5])=[N:6][H:13].[H:9][H:12]>>[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],16.074242641155095
[C:1]([H:7])([H:8])[H:9].[C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],25.38524780202171
[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7]>>[O:1]([C:2]1=[N:6][C@@:5]1([N+:4](=[N-:3])[H:8])[H:9])[H:7],115.876932561003
[C:3]1([H:11])([H:12])[C@:4]([O:5][H:14])([H:13])[C:6]1=[C:7]([H:8])[H:15].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],46.33375355967805
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:7][C@@:6]1([H:15])[C:4](=[C:3]([H:13])[H:14])[O:5]1)([H:11])[H:12])([H:8])([H:9])[H:10],74.672064013989
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([H:11])[C:6][C:7]1([H:10])[H:14],93.1280983229017
[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[C-:3]#[O+:4].[C:5](#[N:6])[H:7].[O:1]=[C:2]([H:8])[H:9],38.2635641855312
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[N:4]1.[C:5](=[C:6]([H:14])[H:15])([H:12])[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],56.97520646821522
[C:1]([C:2]#[C:3][C:4]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:5](=[O:6])=[C:7]([H:14])[H:15]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],59.0247884036762
[H:7][H:11].[O:1]=[N:2][C:3]1=[C:6]([H:12])[N:5]([H:10])[C:4]1([H:8])[H:9]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],17.776734607342902
[C:1](=[C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])/[C:5](=[N:7]/[H:14])[C:6]1([H:15])[H:16])[H:10])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]3([H:15])[H:16])[N:7]12,85.5932208136876
[C:1](=[C:2]([H:9])[H:10])([H:7])[H:8].[C:3](\[C:4]([H:12])([H:13])[H:14])(=[C:5](\[O:6][H:16])[H:15])[H:11]>>[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9],70.32472736628105
